US07741479B2
To a vial containing 4-chlorobenzo[d][1,3]dioxol-5-amine (28.8 mg, 0.168 mmol, 1 equiv.) in 1 mL THF was added 4M HCl in 1,4-dioxane (0.042 mL, 1 equiv.) followed by phosgene (20% in toluene; 0.360 mL, 0.684 mmol, 4 equiv.). The vial was capped and heated to 70° C. for 1 h, the solvent was removed under, the residue redissolved in toluene and solvent was again removed under vacuum to eliminate any remaining phosgene yielding 4-chloro-5-isocyanatobenzo[d][1,3]dioxole used as such in the next step.

reactant | 4-chlorobenzo[d][1,3]dioxol-5-amine | 0.168 mmol, 28.8 mg, 1 equiv. | ClC1=C(C=CC=2OCOC21)N | C7H6ClNO2
reactant | HCl | 4M | Cl | ClH
reactant | 1,4-dioxane | 0.042 mL, 1 equiv. | O1CCOCC1 | C4H8O2
reactant | phosgene | 0.684 mmol, 0.360 mL, 4 equiv. | C(=O)(Cl)Cl | CCl2O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 4-chloro-5-isocyanatobenzo[d][1,3]dioxole | ClC1=C(C=CC=2OCOC21)N=C=O | C8H4ClNO3
